US07199120B2
f) N-Cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-pyridinyl)pyrazolo[1,5-a]pyridin-7-amine
A solution of 1-[7-(cyclopentylamino)-2-(4-pyridinyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone (0.3 g, 0.94 mmol) in N,N-dimethylformamide dimethyl acetal (10 mL) was heated at reflux for 3 days. The mixture was allowed to cool to room temperature. Water was added and the resulting mixture was extracted with ethyl acetate. The ethyl acetate phase was dried (magnesium sulfate), filtered and concentrated. The resulting residue was purified by flash chromatography (7:3 ethyl acetate-acetone) to give 1-[7-(cyclopentylamino)-2-(4-pyridinyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one (0.23 g, 65%) as a colored syrup which was used in the next step without further purification. To a solution of 1-[7-(cyclopentylamino)-2-(4-pyridinyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one (0.10 g, 0.27 mmol) in tetrahydrofuran (10 mL) was added cyclopentyl guanidine hydrochloride (0.06 g, 0.38 mmol) followed by potassium tert-butoxide (0.085 g, 0.76 mmol). The resulting mixture was heated at reflux for 12 hours. Upon cooling to room temperature, water was added. The mixture was extracted with ethyl acetate. The ethyl acetate phase was washed with brine, dried (magnesium sulfate), filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography (1:9 methanol-dichloromethane) to give the title compound (89 mg, 75%) as a white solid. 1H NMR (CDCl3): δ 8.64 (d, 2H), 8.04 (d, 1H), 7.58 (m, 3H), 7.28 (t, 1H), 6.32 (d, 1H), 6.02 (d, 1H), 5.95 (d, 1H), 5.03 (d, 1H), 4.22 (m, 1H), 3.97 (m, 1H), 1.2–2.2 (m, 16H); MS m/z 440 (M+1).

reactant | 1-[7-(cyclopentylamino)-2-(4-pyridinyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one | 0.27 mmol, 0.10 g | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C(C=CN(C)C)=O)C2=CC=NC=C2 | C22H25N5O
reactant | cyclopentyl guanidine hydrochloride | 0.38 mmol, 0.06 g | Cl.C1(CCCC1)NC(=N)N
reactant | potassium tert-butoxide | 0.76 mmol, 0.085 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-Cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-pyridinyl)pyrazolo[1,5-a]pyridin-7-amine | 89 mg, 75% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=NC=C2 | C26H29N7
